US09447078B2
Anhydrous CH3CN (0.15 mL, 2.87 mmol) was added to a solution of LiHMDS (1M/THF, 3.0 mL, 3.0 mmol) at −75° C. under inert atmosphere and the reaction mixture was stirred for 5 min. A solution of methyl 5-((2-propylpentyl)oxy)furan-2-carboxylate (1.337 mmol) in anhydrous THF (7 mL) was added to the reaction mixture and the reaction mixture was stirred under inert atmosphere while slowly warming to 0° C. for over 75 min. The reaction mixture was partitioned between aqueous NaHSO4 (10%) and EtOAc. Organic layer was washed with brine, concentrated under reduced pressure. Flash chromatography purification (10%-50% EtOAc—hexanes gradient) gave 3-oxo-3-(5-((2-propylpentyl)oxy)furan-2-yl)propanenitrile as an off-white solid. Yield (0.23 g, 66%); 1H NMR (400 MHz, DMSO-d6) δ 7.57 (d, J=3.8 Hz, 1H), 5.78 (d, J=3.8 Hz, 1H), 4.30 (s, 2H), 4.08 (d, J=5.6 Hz, 2H), 1.69-1.79 (m, 1H), 1.23-1.35 (m, 8H), 0.80-0.88 (m, 6H).

reactant | CH3CN | 2.87 mmol, 0.15 mL | CC#N | C2H3N
reactant | LiHMDS | 3.0 mmol, 1M, 3.0 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | methyl 5-((2-propylpentyl)oxy)furan-2-carboxylate | 1.337 mmol | C(CC)C(COC1=CC=C(O1)C(=O)OC)CCC | C14H22O4
solvent | THF | 7 mL | C1CCOC1 | C4H8O
product | 3-oxo-3-(5-((2-propylpentyl)oxy)furan-2-yl)propanenitrile | O=C(CC#N)C=1OC(=CC1)OCC(CCC)CCC | C15H21NO3
